US08491869B2
4-(benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)-N-(2-(2-(2-fluoroethoxy)ethoxy)ethyl)aniline was prepared using the procedure for 4-(Benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)-N-(3-fluoropropyl)aniline from 4-(benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)aniline (10 mg, 0.038 mmol) and 2-(2-(2-hydroxyethoxy)ethoxy)ethyl 4-methylbenzenesulfonate (23 mg, 0.075 mmol). The product T557 was obtained as a yellow solid (1.2 mg, 5.1%). 1H NMR (400 MHz, CDCl3): δ 9.31 (d, J=7.6 Hz, 1H), 8.25 (m, 2H), 8.02 (d, J=7.2 Hz, 1H), 7.78-7.75 (m, 1H), 7.72 (m, 1H), 7.61 (m, 1H), 6.80 (d, J=9.2 Hz, 2H), 4.56 (m, 1H), 4.45 (m, 1H), 3.75 (m, 1H), 3.71 (t, J=5.2 Hz, 2H), 3.69-3.65 (m, H), 3.47-3.43 (m, H); MS (ESI): 395 (M+H+).

reactant | 4-(Benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)-N-(3-fluoropropyl)aniline | N=1C=2N(C=CC1C1=CC=C(NCCCF)C=C1)C1=C(N2)C=CC=C1 | C19H17FN4
reactant | 4-(benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)aniline | 0.038 mmol, 10 mg | N=1C=2N(C=CC1C1=CC=C(N)C=C1)C1=C(N2)C=CC=C1 | C16H12N4
reactant | 2-(2-(2-hydroxyethoxy)ethoxy)ethyl 4-methylbenzenesulfonate | 0.075 mmol, 23 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCOCCOCCO | C13H20O6S
product | 4-(benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)-N-(2-(2-(2-fluoroethoxy)ethoxy)ethyl)aniline | N=1C=2N(C=CC1C1=CC=C(NCCOCCOCCF)C=C1)C1=C(N2)C=CC=C1 | C22H23FN4O2
